US07767680B2
Ethyl 4-(2-fluorophenyl)-1,2,3,4-tetrahydro-6-methyl-2-oxopyrimidine-5-carboxylate (2.00 g, 7.2 mmol) was added in small portions to a stirred solution of a 60% nitric acid solution (12 mL) at 0° C. over 5 min. The resulting solution was warmed to room temperature (30 min) and then poured into ice and basified slowly with 6N NaOH. The product was extracted with CHCl3 (3×50 mL), dried, and concentrated. The residue was purified by Biotage SP1 on packed silica gel column (7%-20% MeOH/CH2Cl2 gradient) to give ethyl 4-(2-fluorophenyl)-1,2-dihydro-6-methyl-2-oxopyrimidine-5-carboxylate as a green foam (1.5 g, 76%). Mass Spec. LCMS 277 (M+1).

reactant | Ethyl 4-(2-fluorophenyl)-1,2,3,4-tetrahydro-6-methyl-2-oxopyrimidine-5-carboxylate | 7.2 mmol, 2.00 g | FC1=C(C=CC=C1)C1NC(NC(=C1C(=O)OCC)C)=O | C14H15FN2O3
reactant | nitric acid | 12 mL | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | 6N | [OH-].[Na+]
product | ethyl 4-(2-fluorophenyl)-1,2-dihydro-6-methyl-2-oxopyrimidine-5-carboxylate | 1.5 g, 76% | FC1=C(C=CC=C1)C1=NC(NC(=C1C(=O)OCC)C)=O | C14H13FN2O3
